US05506267
6,7-bis(palmitoyloxy)-2-methyl-4-thiaheptanoic acid t-butyl ester
To a solution of 6,7-dihydroxy-2-methyl-4-thiaheptanoic acid t-butyl ester as obtained in Reference Example 40 (500 mg) in chloroform (30 ml), triethylamine (5.6 ml), palmitoyl chloride (5.50 g) and dimethylaminopyridine (5 mg) were added, followed by stirring at room temperature for 48 hours. After addition of water, the reaction mixture was extracted with ethyl acetate. The extract was washed with a 5% aqueous solution of citric acid, a saturated aqueous solution of sodium hydrogen carbonate and saturated saline, and dried over anhydrous sodium sulfate, and the solvent was distilled off. The resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate=1:1) to yield the title compound (1.33 g, yield 91%) as a colorless oily substance.

reactant | 6,7-dihydroxy-2-methyl-4-thiaheptanoic acid t-butyl ester | C(C)(C)(C)OC(C(CSCC(CO)O)C)=O | C11H22O4S
reactant | palmitoyl chloride | 5.50 g | C(CCCCCCCCCCCCCCC)(=O)Cl | C16H31ClO
reactant | dimethylaminopyridine | 5 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | water | O | H2O
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
solvent | triethylamine | 5.6 ml | C(C)N(CC)CC | C6H15N
product | 6,7-bis(palmitoyloxy)-2-methyl-4-thiaheptanoic acid t-butyl ester | 1.33 g, yield 91% | C(C)(C)(C)OC(C(CSCC(COC(CCCCCCCCCCCCCCC)=O)OC(CCCCCCCCCCCCCCC)=O)C)=O | C43H82O6S
